US08957070B2
7-{[(2-Carboxy-3-thienyl)sulfonyl]amino}-1H-indole-2-carboxylic acid
To a mixed solution of ethyl 7-({[2-(methoxycarbonyl)-3-thienyl]sulfonyl}amino)-1H-indole-2-carboxylate (0.35 g) in tetrahydrofuran (10 mL)-methanol (10 mL) was added aqueous solution (5 mL) of 85% potassium hydroxide (350 mg), and the mixture was stirred at room temperature for 18 hr. Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (193 mg, yield 62%) as pale-yellow crystals. melting point 272-275° C. (decomposition).

reactant | ethyl 7-({[2-(methoxycarbonyl)-3-thienyl]sulfonyl}amino)-1H-indole-2-carboxylate | 0.35 g | COC(=O)C=1SC=CC1S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C17H16N2O6S2
reactant | methanol | 10 mL | CO | CH4O
reactant | potassium hydroxide | 5 mL, 350 mg | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-{[(2-Carboxy-3-thienyl)sulfonyl]amino}-1H-indole-2-carboxylic acid | 193 mg, yield 62% | C(=O)(O)C=1SC=CC1S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C14H10N2O6S2
